US07868026B2
Methyl 2-{[(5-methylpyridin-3-yl)amino]sulfonyl}benzoate
To a solution of 5-methylpyridin-3-amine (0.5 g, 4.62 mmol) in CH2Cl2 (50 ml) were added triethylamine (0.64 mL, 4.62 mmol) and methyl 2-(chlorosulfonyl)benzoate (1.08 g, 4.62 mmol). The resulting mixture was stirred at room temperature for 1 hour. The mixture was then diluted with saturated aqueous NaHCO3 and extracted with CH2Cl2. The organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash chromatography (0-8% MeOH/CH2Cl2) to give the title compound (0.476 g, 34%). 1H NMR (400 MHz, DMSO-D6) δ ppm 10.25-10.62 (m, 1H) 8.6 (s, 2H) 7.81-7.93 (m, 1H) 7.64-7.76 (m, 2H) 7.54-7.64 (m, 1H) 7.28 (s, 1H) 3.80 (s, 3H) 2.18 (s, 3H).

reactant | 5-methylpyridin-3-amine | 4.62 mmol, 0.5 g | CC=1C=C(C=NC1)N | C6H8N2
reactant | triethylamine | 4.62 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 2-(chlorosulfonyl)benzoate | 4.62 mmol, 1.08 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Methyl 2-{[(5-methylpyridin-3-yl)amino]sulfonyl}benzoate | 0.476 g, 34% | CC=1C=C(C=NC1)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C14H14N2O4S
